US05446059
a) Methyl 3-hydroxy-4-(1-adamantyl)benzoate
12.16 g (80 mM) of methyl 3-hydroxybenzoate and 12.16 g (80 mM) of adamantanol in 160 ml of dichloromethane are treated with a dropwise addition of 4.37 ml of concentrated sulphuric acid. The reaction mixture is stirred at room temperature overnight. The solid residue is washed withwater and dried to lead to 18.3 g (79.9%) of the expected derivative, of melting point 244°-246° C.

reactant | methyl 3-hydroxybenzoate | 80 mM, 12.16 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | adamantanol | 80 mM, 12.16 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | sulphuric acid | 4.37 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | Methyl 3-hydroxy-4-(1-adamantyl)benzoate | OC=1C=C(C(=O)OC)C=CC1C12CC3CC(CC(C1)C3)C2 | C18H22O3
